US07084164B2
To biphenyl-4-carboxylic acid N′-(2-benzyloxyacetyl)hydrazide (9.38 g) was added phosphorus oxychloride (30 ml), and stirred at 100° C. for one hour. After the reaction solution was cooled to ambient temperature, the reaction solution was concentrated under reduced pressure. To the resulting residue was added ethyl acetate, and the separated organic layer was washed with aqueous 1 mol/liter sodium hydroxide solution and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure to afford an oily product. Subsequently, 2-fluoroaniline (5 ml) and p-toluenesulfonic acid·monohydrate (200 mg) were added to the resulting oily product, and stirred at 140° C. for 4 hours. After the reaction solution was cooled to ambient temperature, ethyl acetate was added to the reaction solution. The separated organic layer was washed with aqueous 1 mol/liter sodium hydroxide solution and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure. The resulting residue was purified by silica gel chromatography (eluent: n-hexane/ethyl acetate=3/1–1/1), to afford the entitled compound 3-benzyloxymethyl-5-biphenyl-4-yl-4-(2-fluorophenyl)-4H-1,2,4-triazole as pale yellow solid (6.60 g, 58%). The physico-chemical values are as follows.

reactant | biphenyl-4-carboxylic acid N′-(2-benzyloxyacetyl)hydrazide | 9.38 g | C(C1=CC=CC=C1)OCC(=O)NNC(=O)C1=CC=C(C=C1)C1=CC=CC=C1 | C22H20N2O3
reactant | phosphorus oxychloride | 30 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 2-fluoroaniline | 5 ml | FC1=C(N)C=CC=C1 | C6H6FN
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-benzyloxymethyl-5-biphenyl-4-yl-4-(2-fluorophenyl)-4H-1,2,4-triazole | 6.60 g, 58% | C(C1=CC=CC=C1)OCC1=NN=C(N1C1=C(C=CC=C1)F)C1=CC=C(C=C1)C1=CC=CC=C1 | C28H22FN3O
